US05602252
9-Ethyl-4-[N-(phenylmethyl)methylamino]-2-(methylthio)imidazo[5,1-h]-pteridin-6(5H)-one
Prepared by treatment of 4,6-dichloro-5-nitro-2-(methylthio)pyrimidine with N-benzyl methylamine, followed by reaction with 2-ethylimidazole, reduction with tin (II) chloride, and cyclization with carbonyldiimidazole.

reactant | 4,6-dichloro-5-nitro-2-(methylthio)pyrimidine | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)SC | C5H3Cl2N3O2S
reactant | N-benzyl methylamine | C(C1=CC=CC=C1)NC | C8H11N
reactant | 2-ethylimidazole | C(C)C=1NC=CN1 | C5H8N2
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 9-Ethyl-4-[N-(phenylmethyl)methylamino]-2-(methylthio)imidazo[5,1-h]-pteridin-6(5H)-one | C(C)C1=NC=C2C(NC=3C(=NC(=NC3N21)SC)N(CC2=CC=CC=C2)C)=O | C19H20N6OS
